datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[O:13][O:14]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][O:13][O:14],50.04064
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[H:21])[H:11],12.803
[H:5].[N:0]([C:1]=[O:2])([H:3])[H:4]>>[H:3][H:5].[N:0](=[C:1]=[O:2])[H:4],0.0
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10]>>[C:0]([C:1]([N:2]([H:8])[H:9])[H:7])([H:3])([H:4])[H:5].[H:6][O:10],5.3346
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])=[C:8]([C:9]([H:20])([H:21])[H:22])[H:19])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],71.2535
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]([C:8]([H:11])([H:12])[H:13])[C:9]([H:14])([H:15])[H:16])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:10])([C:8]([H:11])([H:12])[H:13])[C:9]([H:14])([H:15])[H:16],90.7928
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:25])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:25])[H:24])[H:5],34.8527
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])=[C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])([H:13])[C:2]([H:14])([H:15])[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]1([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22],69.7473
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7](=[S:8])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6]([C:7](=[S:8])[H:11])([H:9])[H:10],130.708
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:16]([C:15]([H:24])([H:25])[H:26])([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])([H:5])([H:6])[H:7],38.2418
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])[H:9])([H:7])[H:8],59.2454
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17],18.828
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:6])[H:5],41.4216
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([H:13])([H:14])[H:15])([O:7][O:8][H:19])[C:4]([H:16])([H:17])[O:5]1)([H:9])([H:10])[H:11].[O:6][H:18],62.688872
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8])[H:7]>>[C:0]1([H:7])=[C:1]([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([C:6]([H:14])[H:15])[H:13],125.52
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])[C:8](=[C:9]([H:25])[H:26])[H:24])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]1([C:7]([H:21])([H:22])[H:23])[C:8](=[C:9]([H:25])[H:26])[H:24])([H:10])[H:11],74.3078
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([S:1])([H:4])([H:5])[H:6].[S:2]([S:3][H:7])[H:8],8.368
[C:0]([C:1](=[O:2])[O:3][O:4][H:7])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1](=[O:2])[O:3]1.[O:4][H:7],113.8048
